US08445684B2
LiCl (138 mg, 3.27 mmol, 5.0 equiv.) was added to a stirred solution of NaBH4 (124 mg, 3.27 mol, 5.0 equiv.) in dry EtOH (10 mL) at 0° C., and the mixture was stirred at that temperature for 10 min. Then 4-[(1S,2S)-2-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]cyclopropyl]-2-trans-butenoic acid methyl ester (263 mg, 653 μmol) dissolved in THF (10 mL) was cannulated into the reaction mixture, which was subsequently refluxed for 24 h. The reaction was then quenched cautiously with saturated aqueous NH4Cl solution (10 mL), and the mixture was extracted with EtOAc (2×100 mL). The organic extracts were washed with water (50 mL) and brine (50 mL) and dried over Na2SO4. After concentration in vacuo, the crude product was purified by CC (SiO2, 3-4% MeOH in CH2Cl2 as the eluent) to provide 4-[(1S,2S)-2-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]cyclopropyl]-1-butanol (207 mg, 84%) as a colorless oil. 1H NMR (CDCl3, 300 MHz) δ 8.10 (s, 1H), 8.01 (s, 1H), 6.84 (s, 1H), 4.56-4.43 (m, 1H), 4.37-4.23 (m, 1H), 4.11 (dd, 1H, J=9.8, 3.01 Hz), 3.89 (t, 2H, J=7.3 Hz), 3.66 (t, 2H, J=6.4 Hz), 2.43-2.19 (m, 1H), 1.69-1.45 (m, 7H), 1.41 (s, 9H), 1.12-0.98 (m, 1H), 0.97-0.87 (m, 1H), 0.86-0.76 (m, 1H). MS (ESI) m/z 376 (M+).

reactant | LiCl | 3.27 mmol, 138 mg, 5.0 equiv. | [Li+].[Cl-]
reactant | NaBH4 | 3.27 mol, 124 mg, 5.0 equiv. | [BH4-].[Na+]
reactant | 4-[(1S,2S)-2-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]cyclopropyl]-2-trans-butenoic acid methyl ester | 653 μmol, 263 mg | COC(\C=C\C[C@@H]1[C@H](C1)C=1C=NC=C(C1)OC[C@H]1N(CC1)C(=O)OC(C)(C)C)=O | C22H30N2O5
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[(1S,2S)-2-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]cyclopropyl]-1-butanol | 207 mg, 84% | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=C(C=NC1)[C@@H]1[C@H](C1)CCCCO | C21H32N2O4
